US04229449
To 55 g of N-methyl-2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propylamine hydrochloride dissolved in 770 ml of distilled water there was added at room temperature 185 ml of 2 N NaOH and 200 ml of CH2Cl2. At 0° C., slow dropwise addition was made to the mixture of 16.7 ml of chloroacetyl chloride dissolved in 350 ml of anhydrous CH2Cl2. The solution was stirred at room temperature for 3 hours. The organic phase was separated and washed with an aqueous solution of bicarbonate, then with a saturated solution of NaCl, then dried and evaporated to dryness. There was obtained 60 g (Yield 97%) of N-chloroacetyl-N-methyl-3-phenyl-2-hydroxy-3-(2-nitro-phenoxy)-propylamine.

reactant | N-methyl-2-hydroxy-3-phenyl-3-(2-nitro-phenoxy)-propylamine hydrochloride | 55 g | Cl.CNCC(C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)O
reactant | NaOH | 2 N, 185 ml | [OH-].[Na+]
reactant | chloroacetyl chloride | 16.7 ml | ClCC(=O)Cl | C2H2Cl2O
solvent | water | 770 ml | O | H2O
solvent | CH2Cl2 | 350 ml | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 200 ml | C(Cl)Cl | CH2Cl2
product | N-chloroacetyl-N-methyl-3-phenyl-2-hydroxy-3-(2-nitro-phenoxy)-propylamine | 60 g, Yield 97% | ClCC(=O)N(C)CC(C(OC1=C(C=CC=C1)[N+](=O)[O-])C1=CC=CC=C1)O | C18H19ClN2O5
